US09301951B2
Intermediate 43a: tert-butyl 3-(2-(2-(2-((3-((2-(4-((3-(trifluoromethyl)benzyl)carbamoyl)-pyridin-2-yl)-4-(piperidin-1-yl)phenyl)carbamoyl)-benzyl)(methyl)amino)ethoxy)ethoxy)-ethoxy)propanoate
Into a 8-mL round-bottom flask, was placed a solution of tert-butyl 3-(2-(2-(2-(methylamino)ethoxy)ethoxy)ethoxy)propanoate (89.3 mg, 0.31 mmol, 1.00 equiv) in N,N-dimethylformamide (6 mL), potassium carbonate (84.7 mg, 0.61 mmol, 1.99 equiv), potassium iodide (10.2 mg, 0.06 mmol, 0.20 equiv), and N-(3-(trifluoromethyl)benzyl)-2-(2-(3-(bromomethyl)benzamido)-5-(piperidin-1-yl)phenyl)isonicotinamide (200 mg, 0.31 mmol, 1.00 equiv). The resulting solution was stirred overnight at 70° C. The solids were filtered out. The resulting mixture was concentrated under vacuum. The residue was dissolved in 20 mL of dichloromethane. The resulting mixture was washed with 2×20 mL of water. The resulting mixture was washed with 1×20 mL of brine, dried over sodium sulfate, and concentrated under vacuum. This resulted in 264 mg (crude) of product as yellow oil.

reactant | tert-butyl 3-(2-(2-(2-(methylamino)ethoxy)ethoxy)ethoxy)propanoate | 0.31 mmol, 89.3 mg, 1.00 equiv | CNCCOCCOCCOCCC(=O)OC(C)(C)C | C14H29NO5
reactant | potassium carbonate | 0.61 mmol, 84.7 mg, 1.99 equiv | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 0.06 mmol, 10.2 mg, 0.20 equiv | [I-].[K+]
reactant | N-(3-(trifluoromethyl)benzyl)-2-(2-(3-(bromomethyl)benzamido)-5-(piperidin-1-yl)phenyl)isonicotinamide | 0.31 mmol, 200 mg, 1.00 equiv | FC(C=1C=C(CNC(C2=CC(=NC=C2)C2=C(C=CC(=C2)N2CCCCC2)NC(C2=CC(=CC=C2)CBr)=O)=O)C=CC1)(F)F | C33H30BrF3N4O2
solvent | N,N-dimethylformamide | 6 mL | CN(C=O)C | C3H7NO
product | tert-butyl 3-(2-(2-(2-((3-((2-(4-((3-(trifluoromethyl)benzyl)carbamoyl)-pyridin-2-yl)-4-(piperidin-1-yl)phenyl)carbamoyl)-benzyl)(methyl)amino)ethoxy)ethoxy)-ethoxy)propanoate | FC(C=1C=C(CNC(=O)C2=CC(=NC=C2)C2=C(C=CC(=C2)N2CCCCC2)NC(=O)C=2C=C(CN(CCOCCOCCOCCC(=O)OC(C)(C)C)C)C=CC2)C=CC1)(F)F | C47H58F3N5O7
